US05578627
To a suspension of 5.58 g of 3-(2-amino-3-hydroxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride in 56 ml of methylene chloride and 11 ml of methanol are added 4.45 g of triethylamine and 5.42 g of di-tert-butyl dicarbonate at 5°-10° C., and they are subjected to reaction at 20°-25° C. for three hours. Water is added to the reaction mixture and the pH is adjusted to 2 with 2N hydrochloric acid, after which the organic layer is separated. The separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure. The residue obtained is crystallized from n-hexane and the crystals are collected by filtration, to obtain 6.44 g of 3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-5-chloro-1,2-benzoisoxazole.

reactant | 3-(2-amino-3-hydroxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride | 5.58 g | Cl.NC(COC1=NOC2=C1C=C(C=C2)Cl)CO
reactant | triethylamine | 4.45 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 5.42 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methylene chloride | 56 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 11 ml | CO | CH4O
solvent | Water | O | H2O
product | 3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-5-chloro-1,2-benzoisoxazole | 6.44 g | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)Cl)CO | C15H19ClN2O5
